US05846990
A. 5-Phenyloxazole
A mixture of tosylmethyl isocyanide (5.86 g, 30 mmol), benzaldehyde (3.18 g, 30 mmol) and K2CO3 (6.22 g, 45 mmol) in 60 ml MeOH was refluxed for 2 hr and concentrated. 250 ml EtOAc was added and the mixture was washed with H2O, brine, dried and concentrated. The residue was chromatographed on silica gel using 15:1 hexane/EtOAc to afford the title compound of this step (2.5 g, 57%) as a white solid.

reactant | tosylmethyl isocyanide | 30 mmol, 5.86 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | benzaldehyde | 30 mmol, 3.18 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | K2CO3 | 45 mmol, 6.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 60 ml | CO | CH4O
product | 5-Phenyloxazole | C1(=CC=CC=C1)C1=CN=CO1 | C9H7NO
